US07569578B2
(R)-1-(3-(Hydroxymethyl)-2,3-dihydro-1,2,4-oxadiazol-5-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethyl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate
Solid lithium borohydride (1.5 mg, 0.0689 mmol) was added to a stirred solution of (R)-1-(3-(ethoxycarbonyl)-1,2,4-oxadiazol-5-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethyl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate (2.3 mg, 0.00328 mmol) in ethanol (2 mL) at room temperature. The mixture was stirred for 3 h, and then quenched with saturated ammonium chloride and extracted with methylene chloride (15 mL). The organic layer was washed with brine (5 mL), dried over magnesium sulfate, and concentrated in vacuo to afford the expected product (2.02 mg, 94%).

reactant | lithium borohydride | 0.0689 mmol, 1.5 mg | [BH4-].[Li+]
reactant | (R)-1-(3-(ethoxycarbonyl)-1,2,4-oxadiazol-5-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethyl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | 0.00328 mmol, 2.3 mg | O=C1NC2=CC=CC=C2C=C1C1CCN(CC1)C(=O)O[C@H](CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)C1=NC(=NO1)C(=O)OCC | C36H44N6O7Si
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | (R)-1-(3-(Hydroxymethyl)-2,3-dihydro-1,2,4-oxadiazol-5-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethyl 4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxylate | 2.02 mg, 94% | O=C1NC2=CC=CC=C2C=C1C1CCN(CC1)C(=O)O[C@H](CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)C1=NC(NO1)CO | C34H44N6O6Si
